US08580803B2
To a solution of 5-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (1.47 g, 6.38 mmol) in THF (60 mL) at −78° C. under N2 was added n-BuLi (2.5 M in hexane, 5.74 mL, 14.36 mmol) dropwise. After completion of addition, the mixture was stirred at −78° C. for additional 40 min. PhCOCl (0.88 mL) was added and the reaction was stirred for an additional 1 hour. Water (1 mL) was added to quench the reaction. The reaction mixture was then poured into water (100 mL). EtOAc (200 mL) was added for extraction. The organic layer was separated, dried (Na2SO4), filtered and concentrated to a residue. The residue was dissolved into small amount of DCM and a little MeOH. It was loaded to silica gel column. The purification was down by eluent with 1/1 DCM/EtOAc. The (4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone was obtained as a white solid (0.49 g, 29%). 1H NMR (DMSO-d6, 400 MHz) 8.74 (s, 1H), 8.17 (s, 1H), 7.87 (m, 2H), 7.68 (m, 1H), 7.56 (m, 2H). LCMS [M+1]: 258.

reactant | 5-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 6.38 mmol, 1.47 g | BrC1=CNC=2N=CN=C(C21)Cl | C6H3BrClN3
reactant | n-BuLi | 14.36 mmol, 2.5 M, 5.74 mL | [Li]CCCC
reactant | PhCOCl | 0.88 mL | C1(=CC=CC=C1)C(=O)Cl | C7H5ClO
reactant | Water | 1 mL | O | H2O
reactant | water | 100 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)(phenyl)methanone | ClC=1C2=C(N=CN1)NC=C2C(=O)C2=CC=CC=C2 | C13H8ClN3O
